** Design view name: schematic
.GLOBAL vdd! gnd!

.TEMP 25.0
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2

** Library name: CascodeSymmetricalCMOSOTA
** Cell name: cascodeSymmetricalCMOSOTA
** View name: schematic
c1 out1FirstStage out1
c2 out2FirstStage out2
m1 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 gnd! gnd! nmos
m2 outVoltageBiasXXnXX0 ibias vdd! vdd! pmos
m3 outInputVoltageBiasXXnXX1 ibias vdd! vdd! pmos
m4 outInputVoltageBiasXXnXX2 ibias vdd! vdd! pmos
m5 inputVoltageBiasXXnXX3 ibias vdd! vdd! pmos
m6 FeedbackStageYout1 FeedbackStageYout1 gnd! gnd! nmos
m7 outFeedback outFeedback gnd! gnd! nmos
m8 FeedbackStageYsourceTransconductance1 ibias vdd! vdd! pmos
m9 FeedbackStageYsourceTransconductance2 ibias vdd! vdd! pmos
m10 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m11 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m12 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m13 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m14 out1FirstStage inputVoltageBiasXXnXX3 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos
m15 FirstStageYinnerTransistorStack1Load1 outFeedback gnd! gnd! nmos
m16 out2FirstStage inputVoltageBiasXXnXX3 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos
m17 FirstStageYinnerTransistorStack2Load1 outFeedback gnd! gnd! nmos
m18 FirstStageYsourceTransconductance ibias vdd! vdd! pmos
m19 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m20 out2FirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 gnd!
c4 out2 gnd!
m21 out1SecondStage inputVoltageBiasXXnXX3 SecondStage1YinnerTransconductance SecondStage1YinnerTransconductance nmos
m22 SecondStage1YinnerTransconductance out1FirstStage gnd! gnd! nmos
m23 out1SecondStage ibias vdd! vdd! pmos
m24 out2SecondStage inputVoltageBiasXXnXX3 SecondStage2YinnerTransconductance SecondStage2YinnerTransconductance nmos
m25 SecondStage2YinnerTransconductance out2FirstStage gnd! gnd! nmos
m26 out2SecondStage ibias vdd! vdd! pmos
m27 out1 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m28 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 gnd! gnd! nmos
m29 out1 outVoltageBiasXXpXX1 ThirdStage1YinnerTransconductance ThirdStage1YinnerTransconductance pmos
m30 ThirdStage1YinnerTransconductance out1SecondStage vdd! vdd! pmos
m31 out2 outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos
m32 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 gnd! gnd! nmos
m33 out2 outVoltageBiasXXpXX1 ThirdStage2YinnerTransconductance ThirdStage2YinnerTransconductance pmos
m34 ThirdStage2YinnerTransconductance out2SecondStage vdd! vdd! pmos
m35 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 gnd! gnd! nmos
m36 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m37 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 gnd! gnd! nmos
m38 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos
m39 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 gnd! gnd! nmos
m40 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 gnd! gnd! nmos
m41 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 vdd! vdd! pmos
m42 ibias ibias vdd! vdd! pmos
.END
